US06080754
4-Ethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethlamide was hydrogenated by the general synthetic principles outlined in example 12, to afford 4-ethyl-3-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethylamide as a yellow gum in 113% yield (ethanol incl.). 1H-NMR (CDCl3, 300 MHz) δ: 1.43 (t, 3H); 2.56 (s, 3H); 2.98 (s, 3H); 3.19 (q, 2H); 7.00 (d, 2H); 7.33 (s, 1H); 7.49 (d, 2H); 7.68 (dd, 1H); 7.96 (d, 2H).

reactant | 4-Ethyl-3-(4-benzyloxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethlamide | CN(C(=O)C1=CC2=CC=CC=3N2C1=C(C3CC)C3=CC=C(C=C3)OCC3=CC=CC=C3)C | C28H26N2O2
solvent | ethanol | C(C)O | C2H6O
product | 4-ethyl-3-(4-hydroxyphenyl)pyrrolo[2,1,5-cd]indolizine-2-carboxylic acid dimethylamide | 113% yield | CN(C(=O)C1=CC2=CC=CC=3N2C1=C(C3CC)C3=CC=C(C=C3)O)C | C21H20N2O2
